US05081121
3-Hydroxy-4-methoxyaniline (0.64 g) and diethyl ethoxymethylenemalonate (1.20 g) were stirred at 115° for 30 minutes. Dimethylformamide (9.6 ml), potassium carbonate (960 mg) and ethyl iodide (0.44 ml) were added to the mixture, and the whole mixture was stirred at room temperature for 20 hours. The precipitate was removed by filtration, and the filtrate was concentrated and purified by silica gel column chromatography (Wako Gel C-200, 25 g) to give diethyl (3-ethoxy-4-methoxyanilino)methylenemalonate (1.5 g). The product was suspended in diphenyl ether (19.5 ml), and the suspension was stirred at 250°-260° for 6 hours. After the reaction mixture was left to cool down to room temperature, ether was added to the mixture and the precipitate was collected by filtration. It was purified by silica gel column chromatography (Wako Gel C-200, 35 g) to give 7-ethoxy-6-methoxy-4(1H)-quinolone (compound 62, 280 mg).

reactant | 3-Hydroxy-4-methoxyaniline | 0.64 g | OC=1C=C(N)C=CC1OC | C7H9NO2
reactant | diethyl ethoxymethylenemalonate | 1.20 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | potassium carbonate | 960 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 0.44 ml | C(C)I | C2H5I
solvent | Dimethylformamide | 9.6 ml | CN(C=O)C | C3H7NO
product | diethyl (3-ethoxy-4-methoxyanilino)methylenemalonate | 1.5 g | C(C)OC=1C=C(NC=C(C(=O)OCC)C(=O)OCC)C=CC1OC | C17H23NO6
